US07319099B2
(a) 2-Amino-5-methanesulfonyl-benzoic acid
A mixture of 4.26 mmol 2-chloro-5-methanesulfonyl-benzoic acid, 0.39 mmol Copper powder and 10 ml ammonium hydroxide 25% was heated at 125-130° C. with stirring for 18 hours. Mixture was cooled to room temperature and filtered. The solid was washed with methanol. The filtrate was concentrated in vacuo. The residue was acidified with HCl 1N to pH=2. The obtained solid was washed with water and dried (HV, 50° C., 1 hour) to yield the title compound MS (m/e): 214.1 (M−H, 100%)

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | 4.26 mmol | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
catalyst | Copper | 0.39 mmol | [Cu] | Cu
product | 2-Amino-5-methanesulfonyl-benzoic acid | NC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H9NO4S
